reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1](/[C:2](=[C:4](\[C:6]#[N:7])[H:13])[H:11])([H:8])([H:9])[H:10].[O:3]([C:5]([H:14])([H:15])[H:16])[H:12]>>[C:1]([C@@:2]([O:3][H:12])([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])[H:11])([H:8])([H:9])[H:10],76.2139795810597
[N:1]#[C:2][C@@:3]1([H:6])[C:4]([H:7])([H:8])[N:5]1[H:9]>>[N:1]1([H:8])[C:2][C@@:3]2([H:6])[C@:4]1([H:7])[N:5]2[H:9],124.669517514643
[C:1]([C:2]([C:3][C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10].[O:4]([H:13])[H:14]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],2.82840439524999
[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[O:5]/[C:6]1=[N:7]\[H:16])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([O:5][H:16])([H:14])[H:15])[C:6]#[N:7])([H:8])([H:9])[H:10],66.1907195342065
[O:1]([C:2]([C:3]#[N:4])=[C:5]=[N:6][H:8])[H:7]>>[O:1]([C:2]([C:3]#[N:4])([C:5]#[N:6])[H:8])[H:7],66.7744376419672
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:5](=[C:4])[H:14])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]#[C:5][H:14])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10],19.824994596000288
[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5]#[C:6][H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:6](=[C:5]=[C:2]([C:3]([O:4][H:13])([H:11])[H:12])[H:10])[H:14])([H:7])([H:8])[H:9],96.1977964496706
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3][C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10].[O:4]([H:13])[H:14],80.1735092307847
[O:1]=[C:2]([N:3]([C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])[H:7]>>[O:1]([C+:2]([N:3]([C:4](=[C:5]=[N-:6])[H:10])[H:8])[H:7])[H:9],46.00091459779679
[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9]>>[C:6](=[N:7][H:13])([H:11])[H:12].[N:1]([C:2](=[O:3])[C:4](=[O:5])[H:10])([H:8])[H:9],81.5658630593432
[N:1]([C@@:2]([C:3]([O:4][H:12])([H:10])[H:11])([C:5]#[N:6])[H:9])([H:7])[H:8]>>[N:1]([C:2]([C:3]([O:4][H:12])([H:10])[H:11])=[C:5]=[N:6][H:9])([H:7])[H:8],86.92512573167579
[O:1]([C:2]([C:3]#[N:4])([C:5]#[N:6])[H:8])[H:7]>>[O:1]([C:5]1=[N:6][C@@:2]1([C:3]#[N:4])[H:8])[H:7],92.60927669422442
[C:1](=[C:2]=[C:3]([H:5])[H:7])([H:4])[H:6]>>[C:1]([C:2]#[C:3][H:7])([H:4])([H:5])[H:6],85.35520065365851
[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][C-:4]=[O+:5][C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9],109.049260859648
[O:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[H:13])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[N:4](=[C:5](/[O:6][H:7])[H:13])\[H:12].[O:1]=[C:2]([C:3]([H:8])([H:10])[H:11])[H:9],64.2705673922874
[H:7][H:10].[O:1]([C:2]([C:3](=[O:4])[C:5]#[N:6])([H:8])[H:9])[H:11]>>[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5]#[N:6])[H:10])([H:8])[H:9])[H:7],62.22353042233509
[N:1]([C:2](=[O:3])[N:4](/[C:5](=[N:6]/[H:11])[H:10])[H:9])([H:7])[H:8]>>[N:1]([C+:2]([O:3]/[C:5](=[N:6]/[H:11])[H:10])[N-:4][H:9])([H:7])[H:8],60.300134388345604
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][C:6](=[O:7])[H:13])[H:12])[H:8]>>[O:1]=[C:2]([C:3]([C:4]([O:5][C:6](=[O:7])[H:13])([H:8])[H:12])([H:10])[H:11])[H:9],53.17409074173951
[N:1]([C+:2]([O:3]/[C:5](=[N:6]/[H:11])[H:10])[N-:4][H:9])([H:7])[H:8]>>[N:1]([C:2](=[O:3])[N:4](/[C:5](=[N:6]/[H:11])[H:10])[H:9])([H:7])[H:8],32.27009722189901
[C:1]([C@@:2]([C:3](=[O:4])[H:12])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:4]/[C:3](=[C:2](/[C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])[H:12])([H:8])([H:9])[H:10],90.5820718553331
[C-:5]#[O+:6].[C:1](=[N:2][C:3](=[O:4])[H:10])([H:8])[H:9].[H:7][H:11]>>[C:1]([N:2]([C:3](=[O:4])[H:10])[C:5](=[O:6])[H:11])([H:7])([H:8])[H:9],38.045948709141705
[C:1]([C:2]([N:3]([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([N:3]=[C:4]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[C:5](=[O:6])([C:7]([H:16])([H:17])[H:18])[H:15],90.4400279929623
[C:1]([C@@:2]1([H:9])[O:3][C:4]1([H:11])[H:12])([H:6])([H:7])[H:8].[O:5]([H:10])[H:13]>>[C:1]([C@@:2]([O:3][H:10])([C:4]([O:5][H:13])([H:11])[H:12])[H:9])([H:6])([H:7])[H:8],56.82275906780669
[C:1]([C@@:2]([C:3]([C:4]#[N:5])([H:12])[H:13])([C:6]#[C:7][H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])/[C:4](=[N:5]/[H:14])[C:7]#[C:6]1)([H:8])([H:9])[H:10],90.3914808596542
[O:1]([C:2]1=[C:5]([H:12])[O:6][C:4]([H:10])([H:11])[C:3]1([H:8])[H:9])[H:7]>>[O:1]([C:2]1([C:5](=[O:6])[H:12])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7],56.51190811278476
[n:1]1([H:7])[c:2]([H:8])[o+:3][c:4]([H:9])[c:5]1[N-:6][H:10]>>[N:1](=[C:2](/[O:3][C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])\[H:7],72.97596959555338
[O:1]([C@@:2]([C:3][O:4][H:9])([C:5]#[C:6][H:10])[H:8])[H:7]>>[O:1]([C@@:2]([C:3](=[O:4])[H:9])([C:5]#[C:6][H:10])[H:8])[H:7],28.40613377842999
